US06362177B1
To a mixture of (R)-3-[N-{2-(tert-butoxycarbonylamino)-5-(trifluoromethoxy)benzoyl}glycyl]aminopyrrolidine (0.050 mmol), 3-hydroxy-4-methoxybenzaldehyde (0.060 mmol), NaBH3CN (0.15 mmol), and methanol (1.3 mL) was added acetic acid (0.050 mL). The reaction mixture was stirred at 60° C. for 8 h. The mixture was cooled to room temperature, loaded onto Varian™ SCX column, and washed with CH3OH (10 mL). Product was eluted off using 2 N NH3 in CH3OH (5 mL) and concentrated. To the resulting material was added 4 N HCl in 1,4-dioxane and the solution was stirred overnight at room temperature. Concentration and preparative TLC gave (R)-3-[{N-(2-amino-5-trifluoromethoxybenzoyl)glycyl}amino]-1-(3-hydroxy-4-methoxybenzyl)pyrrolidine (Compound No. 1896) (9.1 mg, 38%): The purity was determined by RPLC/MS (93%); ESI/MS m/e 483 (M++H, C22H25F3N4O5).

reactant | (R)-3-[N-{2-(tert-butoxycarbonylamino)-5-(trifluoromethoxy)benzoyl}glycyl]aminopyrrolidine | 0.050 mmol | C(C)(C)(C)OC(=O)NC1=C(C(=O)NCC(=O)N[C@H]2CNCC2)C=C(C=C1)OC(F)(F)F | C19H25F3N4O5
reactant | 3-hydroxy-4-methoxybenzaldehyde | 0.060 mmol | OC=1C=C(C=O)C=CC1OC | C8H8O3
reactant | NaBH3CN | 0.15 mmol | [BH3-]C#N.[Na+]
reactant | methanol | 1.3 mL | CO | CH4O
solvent | acetic acid | 0.050 mL | C(C)(=O)O | C2H4O2
product | (R)-3-[{N-(2-amino-5-trifluoromethoxybenzoyl)glycyl}amino]-1-(3-hydroxy-4-methoxybenzyl)pyrrolidine | NC1=C(C(=O)NCC(=O)N[C@H]2CN(CC2)CC2=CC(=C(C=C2)OC)O)C=C(C=C1)OC(F)(F)F | C22H25F3N4O5
